US08895570B2
(vi) Methyl (4-{[[3-(6-amino-2-butoxy-8-oxo-7,8-dihydro-9H-purin-9-yl)propyl](3-piperidin-1-ylpropyl)amino]methyl}phenyl)acetate
A mixture of 6-amino-2-butoxy-9-{3-[(3-piperidin-1-ylpropyl)amino]propyl}-7,9-dihydro-8H-purin-8-one dimaleate (20.0 g, 31.3 mmol), triethylamine (9.5 g, 94.1 mmol) and NMP (72 g) was stirred at 25° C. for 30 min. Sodium triacetoxyborohydride (11.3 g, 53.3 mmol) was added to the solution and stirred for 15 min. A solution of methyl (4-formylphenyl)acetate (8.4 g, 47.1 mmol) in NMP (10.3 g g) was added to the solution and the mixture stirred for 8 hr. Then NMP (41 g) was poured into the reaction solution and cooled to 5° C. To the solution was added cold water (200 g) dropwise and the mixture stirred. The reaction mixture was adjusted to pH9 by using 10% aqueous Na2CO3 and water (86 g) added. After stirring for 1 hr, the reaction mixture was filtered, the collecting solid washed with cooled water and dried to give the crude subtitle compound as a white solid. Yield 15.0 g, 84%.

reactant | 6-amino-2-butoxy-9-{3-[(3-piperidin-1-ylpropyl)amino]propyl}-7,9-dihydro-8H-purin-8-one dimaleate | 31.3 mmol, 20.0 g | C(\C=C/C(=O)O)(=O)O.C(\C=C/C(=O)O)(=O)O.NC1=C2NC(N(C2=NC(=N1)OCCCC)CCCNCCCN1CCCCC1)=O
reactant | triethylamine | 94.1 mmol, 9.5 g | C(C)N(CC)CC | C6H15N
reactant | Sodium triacetoxyborohydride | 53.3 mmol, 11.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | methyl (4-formylphenyl)acetate | 47.1 mmol, 8.4 g | C(=O)C1=CC=C(C=C1)CC(=O)OC | C10H10O3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | NMP | 10.3 g | CN1CCCC1=O | C5H9NO
solvent | NMP | 41 g | CN1CCCC1=O | C5H9NO
solvent | NMP | 72 g | CN1CCCC1=O | C5H9NO
solvent | water | 86 g | O | H2O
solvent | water | 200 g | O | H2O
product | Methyl (4-{[[3-(6-amino-2-butoxy-8-oxo-7,8-dihydro-9H-purin-9-yl)propyl](3-piperidin-1-ylpropyl)amino]methyl}phenyl)acetate | NC1=C2NC(N(C2=NC(=N1)OCCCC)CCCN(CCCN1CCCCC1)CC1=CC=C(C=C1)CC(=O)OC)=O | C30H45N7O4
